US07291631B2
Using General Procedure B: Reaction of {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester and 1-isoquinoline-carbaldehyde with NaBH(OAc)3 in CH2Cl2 gave {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-isoquinolin-1-ylmethyl-amino]-butyl}-methyl-carbamic acid tert-butyl ester as a yellow oil.

reactant | {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCNCC1=NC=C(C=C1C)C)=O | C18H31N3O2
reactant | 1-isoquinoline-carbaldehyde | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-isoquinolin-1-ylmethyl-amino]-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN(CC1=NC=CC2=CC=CC=C12)CC1=NC=C(C=C1C)C)=O | C28H38N4O2
